US07034039B2
To a solution of dimethyl sulfoxide;(1.7 ml, 24 mmol) in tetrahydrofuran (10 mmol) was added oxalyl chloride (1.05 ml, 12 mmol) at −78° C. and the obtained mixture was stirred at −78° C. for 15 min. To the mixture was added 4-butoxy-6,7-dichloro-3-hydroxymethyl-2-methyl-1(2H)-isoquinolinone (synthesized according to the method similar to that in Example 36 (3)) (2.43 g, 5mmol) and the obtained mixture was stirred at −78° C. for 5 min. To the mixture was added triethylamine (5.6 ml, 40mmol) and the obtained mixture was stirred at room temperature for 30 min. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from tetrahydrofuran-diisopropyl ether to give 4-butoxy-6,7-dichloro-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinealdehyde (2.14 g, 81.7%) as crystals.

reactant | tetrahydrofuran | 10 mmol | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 12 mmol, 1.05 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-butoxy-6,7-dichloro-3-hydroxymethyl-2-methyl-1(2H)-isoquinolinone | C(CCC)OC1=C(N(C(C2=CC(=C(C=C12)Cl)Cl)=O)C)CO | C15H17Cl2NO3
reactant | triethylamine | 40mmol, 5.6 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 4-butoxy-6,7-dichloro-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinealdehyde | 2.14 g, 81.7% | C(CCC)OC1=C(N(C(C2=CC(=C(C=C12)Cl)Cl)=O)C)C=O | C15H15Cl2NO3
